US04870187
Ethyl 3,3-bis(4-fluorophenyl)-2-formylamino-2-propenoate
To a chilled (0° C., ice-bath) stirring mixture of 3.2 g (14.7 mmoles) of 4,4'-difluorobenzophenone and 2 mL (18.3 mmoles) of ethyl isocyanoacetate in 30 mL of dry tetrahydrofuran was added 1.03 g (60% suspension, 25.7 mmoles) of sodium hydride in one portion. The reaction was very vigorous at the beginning and the color became dark brownish. The mixture was allowed to stir at 0° C. for one hour then allowed to warm to room temperature and continued for 24 hours. The crude reaction mixture was quenched with 30 mL of saturated aqueous NH4Cl solution and the product was extracted twice with ethyl acetate (40 mL). The organic layers were combined, dried over MgSO4 and evaporated to dryness. The desired product was recrystallized from a mixture of ethyl acetate-hexanes to yield 3.7 g (80.4%) of the title compound; m.p.=174.1°-175.7° C.

reactant | 4,4'-difluorobenzophenone | 14.7 mmoles, 3.2 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | ethyl isocyanoacetate | 18.3 mmoles, 2 mL | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | sodium hydride | 25.7 mmoles, 1.03 g | [H-].[Na+]
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | Ethyl 3,3-bis(4-fluorophenyl)-2-formylamino-2-propenoate | 3.7 g, 80.4% | FC1=CC=C(C=C1)C(=C(C(=O)OCC)NC=O)C1=CC=C(C=C1)F | C18H15F2NO3
